US07105671B2
A solution of 1-{2-(3,4-dichloro-phenyl)-3-[3-(tetrahydro-pyran-2-yloxy)-cyclopentyl]-propionyl}-3-methyl-urea (150.7 mg, 0.33 mmol) in ethanol (3.4 mL) was treated with pyridinium p-toluenesulfonate (8.54 mg, 0.03 mmol). The reaction mixture was heated to 60° C. for 18 h. At this time, the reaction was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230400 mesh, 80/20 methylene chloride/methanol) afforded 1-[2-(3,4-dichloro-phenyl)-3-(3-hydroxy-cyclopentyl)-propionyl]-3-methyl-urea (102.2 mg, 83.7%) as a white solid: mp 82–84° C.; FAB-HRMS m/e calcd for C16H20Cl2N2O3 (M+H)+ 359.0929, found 359.0936.

reactant | 1-{2-(3,4-dichloro-phenyl)-3-[3-(tetrahydro-pyran-2-yloxy)-cyclopentyl]-propionyl}-3-methyl-urea | 0.33 mmol, 150.7 mg | ClC=1C=C(C=CC1Cl)C(C(=O)NC(=O)NC)CC1CC(CC1)OC1OCCCC1 | C21H28Cl2N2O4
reactant | pyridinium p-toluenesulfonate | 0.03 mmol, 8.54 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 3.4 mL | C(C)O | C2H6O
product | 1-[2-(3,4-dichloro-phenyl)-3-(3-hydroxy-cyclopentyl)-propionyl]-3-methyl-urea | 102.2 mg, 83.7% | ClC=1C=C(C=CC1Cl)C(C(=O)NC(=O)NC)CC1CC(CC1)O | C16H20Cl2N2O3
